US05244898
To a solution of 5-dimethylamino-2,3,4,5-tetrahydro-1H-benzazepine (50 g) in a mixture of acetone (400 ml) and water (200 ml) is added potassium carbonate (38.8 g), and thereto is added p-nitrobenzoyl chloride (40 g) with stirring under ice-cooling, and the mixture is stirred at room temperature overnight. To the reaction mixture is added an appropriate amount of water, and the precipitated crystals are collected by filtration and dried to give 5-dimethylamino-1-(4-nitrobenzoyl)-2,3,4,5-tetrahydro-1H-benzazepine (71 g) as pale yellow powder, mp. 139°-142° C.

reactant | 5-dimethylamino-2,3,4,5-tetrahydro-1H-benzazepine | 50 g | CN(C1CCCNC2=C1C=CC=C2)C | C12H18N2
reactant | potassium carbonate | 38.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | p-nitrobenzoyl chloride | 40 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
solvent | acetone | 400 ml | CC(=O)C | C3H6O
solvent | water | 200 ml | O | H2O
product | 5-dimethylamino-1-(4-nitrobenzoyl)-2,3,4,5-tetrahydro-1H-benzazepine | 71 g | CN(C1CCCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)[N+](=O)[O-])=O)C | C19H21N3O3
